US06982274B2
3-(3-Fluorophenyl)-1H-6-indazolecarboxylic acid
To 92 mg of 3-(3-fluorophenyl)-1H-6-indazolecarbonitrile were sequentially added 1 ml of glacial acetic acid, 0.5 ml of water and 0.4 ml of concentrated sulfuric acid, and the mixture was stirred at 110° C. for 6 hours. After standing to cool, 35 ml of ethyl acetate was added to the reaction mixture. The mixture was sequentially washed with water and brine, dried over anhydrous magnesium sulfate and the solvent was evaporated, to give 94 mg of the title compound as bright yellow crystals.

reactant | 3-(3-fluorophenyl)-1H-6-indazolecarbonitrile | 92 mg | FC=1C=C(C=CC1)C1=NNC2=CC(=CC=C12)C#N | C14H8FN3
reactant | acetic acid | 1 ml | C(C)(=O)O | C2H4O2
reactant | water | 0.5 ml | O | H2O
reactant | sulfuric acid | 0.4 ml | S(O)(O)(=O)=O | H2O4S
solvent | ethyl acetate | 35 ml | C(C)(=O)OCC | C4H8O2
product | 3-(3-Fluorophenyl)-1H-6-indazolecarboxylic acid | 94 mg | FC=1C=C(C=CC1)C1=NNC2=CC(=CC=C12)C(=O)O | C14H9FN2O2
